US06369091B1
Bis-trans-4-pentylcyclohexyl carbonyl benzimidazole was synthesized as follows: oxalyl chloride (1.07 ml, 2 M in CH2Cl2) was added to trans-4-pentylcyclohexyl carboxylic acid (0.424 g, 2.14 mmole) followed by one drop DMF. The mixture was allowed react at RT for 1 hour. To the above solution was added 2-(4-aminophenyl)-6-amino-benzimidazole (0.200 g, 0.89 mmole) in pyridine (2 ml). The

reactant | oxalyl chloride | 2 M, 1.07 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trans-4-pentylcyclohexyl carboxylic acid | 2.14 mmole, 0.424 g | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)O | C12H22O2
reactant | 2-(4-aminophenyl)-6-amino-benzimidazole | 0.89 mmole, 0.200 g | NC1=CC=C(C=C1)C=1NC2=C(N1)C=C(C=C2)N | C13H12N4
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | trans-4-pentylcyclohexyl carbonyl benzimidazole | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)C=1NC2=C(N1)C=CC=C2 | C19H26N2O
